data/oMe_Silver.jsonl
{"reaction_id": "NR-033_1-c1ccc(C)cc1_2-C#N_3-SC_4-[N+](=O)[O-]_5-c1ccc(F)cc1_6-c1ccc(C(C)C)cc1_7-c1ccccc1","name": "Buchner Ring Expansion","level": "medium","reactants_smiles": ["N#[N+][CH-]C(=O)c1ccc(C)cc1","c1(C#N)c(SC)c([N+](=O)[O-])c(c1ccc(F)cc1)c(c1ccc(C(C)C)cc1)c1(c1ccccc1)"],"products_smiles": ["[CH](C(=O)c1ccc(C)cc1)1C(C#N)=C(SC)C([N+](=O)[O-])=C(c1ccc(F)cc1)C(c1ccc(C(C)C)cc1)=C1c1ccccc1"],"conditions": "heat/Metal","mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH]C(=O)c1ccc(C)cc1","step_weight": 0,"rationale": "Heating with metal catalyst promotes nitrogen extrusion from the diazo group, forming a carbene stabilized by adjacent carbonyl resonance."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)c1ccc(C)cc1)1C(C#N)2C(SC)=C([N+](=O)[O-])C(c1ccc(F)cc1)=C(c1ccc(C(C)C)cc1)C2(c1ccccc1)1","step_weight": 0,"rationale": "The electrophilic carbene adds to the electron-rich aromatic π-system, favored by carbene’s high reactivity and aromatic nucleophilicity."},{"step": 3,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "[CH](C(=O)c1ccc(C)cc1)1C(C#N)=C(SC)C([N+](=O)[O-])=C(c1ccc(F)cc1)C(c1ccc(C(C)C)cc1)=C1c1ccccc1","step_weight": 0,"rationale": "The strained bicyclic intermediate undergoes thermally allowed electrocyclic ring expansion to a more stable conjugated seven-membered ring."}],"description": "Under thermal and metal catalysis, the diazo ketone loses nitrogen to form a reactive carbene, which adds to the aromatic ring. The resulting bicyclic intermediate undergoes a pericyclic ring expansion, yielding the seven-membered ring product characteristic of the Buchner reaction."}
{"reaction_id": "NR-033_1-c1ccc(C)cc1_2-C(=O)C_3-Cl_4-Br_5-I_6-Cl_7-C(=O)OCC","name": "Buchner Ring Expansion","level": "medium","reactants_smiles": ["N#[N+][CH-]C(=O)c1ccc(C)cc1","c1(C(=O)C)c(Cl)c(Br)c(I)c(Cl)c1(C(=O)OCC)"],"products_smiles": ["[CH](C(=O)c1ccc(C)cc1)1C(C(=O)C)=C(Cl)C(Br)=C(I)C(Cl)=C1C(=O)OCC"],"conditions": "heat/Metal","mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH]C(=O)c1ccc(C)cc1","step_weight": 0,"rationale": "Heating with metal catalyst promotes nitrogen extrusion from the diazo group, forming a carbene stabilized by adjacent carbonyl resonance."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)c1ccc(C)cc1)1C(C(=O)C)2C(Cl)=C(Br)C(I)=C(Cl)C2(C(=O)OCC)1","step_weight": 0,"rationale": "The electrophilic carbene adds to the electron-rich aromatic π-system, favored by carbene’s high reactivity and aromatic nucleophilicity."},{"step": 3,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "[CH](C(=O)c1ccc(C)cc1)1C(C(=O)C)=C(Cl)C(Br)=C(I)C(Cl)=C1C(=O)OCC","step_weight": 0,"rationale": "The strained bicyclic intermediate undergoes thermally allowed electrocyclic ring expansion to a more stable conjugated seven-membered ring."}],"description": "Under thermal and metal catalysis, the diazo ketone loses nitrogen to form a reactive carbene, which adds to the aromatic ring. The resulting bicyclic intermediate undergoes a pericyclic ring expansion, yielding the seven-membered ring product characteristic of the Buchner reaction."}
